US06930109B2
(2S)-[8-But-3-enyl-2-(tert-butyl-dimethyl-silanyloxymethyl)-chroman-7-yl]-carbamic acid tert-butyl ester
To a solution of (2S)-[2-(tert-butyl-dimethyl-silanyloxymethyl)-8-methyl-chroman-7-yl]-carbamic acid tert-butyl ester (0.41 g, 1.0 mmole) in anhydrous tetrahydrofuran (20 mL) containing 0.010 g of 1,10-phenanthroline at −40° C. was slowly added 2.4 equivalents of 1.3 M s-butyl lithium. After 1 equivalent of s-butyl lithium had been added, the deep red color of the indicator became apparent. The reaction was allowed to stand for 1.5 hours after which allyl bromide (0.24 g, 2.0 mmole) was added. After an additional 4 hours the reaction was quenched with water (4 mL). The reaction mixture was diluted with ether (250 mL) and washed with saturated aqueous sodium bicarbonate (50 mL). The organic layer was separated and the solvent removed under vacuum. Column chromatography on silica gel (5% ethyl acetate/hexane) afforded 0.38 g (85%) of the title compound as an oil, [M+H]+: 448, [α]25D=+34.0° (c=1.03, THF).

reactant | (2S)-[2-(tert-butyl-dimethyl-silanyloxymethyl)-8-methyl-chroman-7-yl]-carbamic acid tert-butyl ester | 1.0 mmole, 0.41 g | C(C)(C)(C)OC(NC1=CC=C2CC[C@H](OC2=C1C)C(O[SiH2]C(C)(C)C)(C)C)=O | C22H37NO4Si
reactant | s-butyl lithium | 1.3 M, 2.4 equivalents | C(C)(CC)[Li]
reactant | s-butyl lithium | 1 equivalent | C(C)(CC)[Li]
reactant | allyl bromide | 2.0 mmole, 0.24 g | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | 1,10-phenanthroline | 0.010 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
product | (2S)-[8-But-3-enyl-2-(tert-butyl-dimethyl-silanyloxymethyl)-chroman-7-yl]-carbamic acid tert-butyl ester | 0.38 g, 85% | C(C)(C)(C)OC(NC1=CC=C2CC[C@H](OC2=C1CCC=C)C(O[SiH2]C(C)(C)C)(C)C)=O | C25H41NO4Si
